US05399578
(S)-N-(1-Carboxy-2-methyl-prop-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine
A solution of 21.1 g (40 mmol) of N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester in 210 ml of methanol is hydrogenated at room temperature with the addition of 4 g of Pd/C (10% ) until the calculated amount of hydrogen has been absorbed (24 hours). The crude acid is obtained by filtration and evaporation of the solution. It is partitioned between 80 ml of 2N potassium hydroxide solution and 50 ml of ether. The aqueous phase is separated off and rendered acidic, and the title compound is isolated by extraction with ethyl acetate. It is obtained from ethyl acetate in crystalline form and has a melting interval of 105°-1150° and an optical rotation [α]D20 of -69.95°±0.05° (c=1% in methanol).

reactant | N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester | 40 mmol, 21.1 g | C(C1=CC=CC=C1)OC([C@@H](N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(C)C)=O | C31H35N5O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 210 ml | CO | CH4O
catalyst | Pd/C | 4 g | [Pd] | Pd
product | (S)-N-(1-Carboxy-2-methyl-prop-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(=O)(O)[C@H](C(C)C)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C24H29N5O3
